US06124314
5-(3-Amino-propyl)-thiophene-2-carboxylic acid tert-butyl ester.
To a solution of 5-(3-benzyloxycarbonylamino-prop-1-ynyl)-thiophene-2-carboxylic acid tert-butyl ester (1.0 g, 2.69 mmol) in 15 mL MeOH and 2.69 mL 1N HCl (aq) was added Pd(OH)2. The mixture was placed on a Parr shaker and was hydrogenated under 45 psi H2 for 16 h. The mixture was filtered through Celite®, the catalyst was replaced, and the reaction was shaken for another 6 h. The mixture was filtered through Celite® and concentrated in vacuo. The residue was chased with CCl4 and was triturated with Et2O. The product was isolated as a solid (360 mg).

reactant | 5-(3-benzyloxycarbonylamino-prop-1-ynyl)-thiophene-2-carboxylic acid tert-butyl ester | 2.69 mmol, 1.0 g | C(C)(C)(C)OC(=O)C=1SC(=CC1)C#CCNC(=O)OCC1=CC=CC=C1 | C20H21NO4S
solvent | MeOH | 15 mL | CO | CH4O
solvent | HCl | 1N, 2.69 mL | Cl | ClH
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
product | 5-(3-Amino-propyl)-thiophene-2-carboxylic acid tert-butyl ester | 360 mg | C(C)(C)(C)OC(=O)C=1SC(=CC1)CCCN | C12H19NO2S
